US05804348
Preparation of N-(4-t-Butylbenzoyl)-4-vinylbenzenesulfonamide
A solution of 34.00 g (0.08 mol) of N-(4-t-butylbenzoyl)-4-(2-bromoethyl)benzenesulfonamide, 26.79 g (0.176 mol) of 1,8-diazabicyclo[5.4.0]undecen-7-ene (DBU) and 300 ml of tetrahydrofuran was stirred at room temperature for 22 hrs. The reaction mixture was poured into dilute HCl and extracted with methylene chloride twice. The combined extracts were washed twice with water, dried over magnesium sulfate and concentrated. The residue was recrystallized from toluene, collected, washed with toluene and ligroine and dried.

reactant | N-(4-t-butylbenzoyl)-4-(2-bromoethyl)benzenesulfonamide | 0.08 mol, 34.00 g | C(C)(C)(C)C1=CC=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)CCBr)C=C1 | C19H22BrNO3S
reactant | 1,8-diazabicyclo[5.4.0]undecen-7-ene | 0.176 mol, 26.79 g | N12C=CCCCC2=NCCC1 | C9H14N2
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | N-(4-t-Butylbenzoyl)-4-vinylbenzenesulfonamide | C(C)(C)(C)C1=CC=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)C=C)C=C1 | C19H21NO3S
